US04529736
A 53.6 g portion of p-toluidine was dissolved in a mixture of 150 ml of 12N-hydrochloric acid and 100 ml of water, cooled in an ice-salt bath. A 100 g portion of ice was added and then a solution of 35 g of sodium nitrite in 80 ml of water was added dropwise with stirring over 1/2 hour. A solution of 48.5 g of maleimide in 400 ml of acetone was then added in one portion and the mixture was cooled in an ice-salt bath with 20 g of dry ice added to the reaction mixture. A 125 g portion of sodium acetate was added to achieve pH 3. Ten minutes later 5.0 g of cupric chloride dihydrate was added. The mixture was filtered and the filtrate was allowed to stand 64 hours. The solid was collected, added to 30 ml of 2,6-lutidine and heated on a steam bath for 1/2 hour, then poured into one liter of water and filtered. The filtrate produced pale yellow crystals which were collected, giving 2-(p-tolyl)maleimide.

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | sodium nitrite | 35 g | N(=O)[O-].[Na+]
reactant | maleimide | 48.5 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | dry ice | 20 g | C(=O)=O | CO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 2-(p-tolyl)maleimide | C1(=CC=C(C=C1)C=1C(=O)NC(C1)=O)C | C11H9NO2
